US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (1.00 g, 2.14 mmol) (obtained as described in Reference Example 2(1)) in benzene (50 ml) was added a solution of 0.67M pyrrolidine-trimethylaluminium in benzene (7.6 ml) at room temperature under an atmosphere of nitrogen. The mixture was heated under reflux for 6 hours. After checking the completion of the reaction, 10% aqueous acetic acid solution (50 ml) and ethyl acetate (100 ml) were added to the reaction mixture in an ice bath and the resulting mixture was stirred at room temperature for 2 hours. After adding ethyl acetate thereto, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-pyrrolidinocarbonyl-1,3-thiazol-2-yl)azetidine (775 mg, yield 78%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 2.14 mmol, 1.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | pyrrolidine trimethylaluminium | 0.67M | N1CCCC1.C[Al](C)C
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 7.6 ml | C1=CC=CC=C1 | C6H6
product | 3-t-butyldiphenylsilyloxy-1-(4-pyrrolidinocarbonyl-1,3-thiazol-2-yl)azetidine | 775 mg, yield 78% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)N1CCCC1 | C27H33N3O2SSi
